US04713457
3,5-Dimethyl-1-(6-methylergolin-8β-ylmethyl)pyrazole
0.7 g of 50% sodium hydride in an oil was added in small portions to a mixture of 1.9 g of 2,5-dimethylpyrazole and 50 ml of dimethylformamide, and the resulting mixture was stirred for 30 minutes. 2.0 g of 6-methylergolin-8β-ylmethyl tosylate was added to the mixture which was then heated on a water bath for 3 hours. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (eluted with ethyl acetate:ethanol=10:1 by volume). The product was recrystallized from isopropyl alcohol to obtain 0.8 g of the titled compound as colorless prisms having a melting point of 187°-190° C.

reactant | sodium hydride | 0.7 g | [H-].[Na+]
reactant | 2,5-dimethylpyrazole | 1.9 g | CN1N=C(C=C1)C | C5H8N2
reactant | 6-methylergolin-8β-ylmethyl tosylate | 2.0 g | S(=O)(=O)(OC[C@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C)C3=CC=C(C)C=C3 | C23H26N2O3S
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3,5-Dimethyl-1-(6-methylergolin-8β-ylmethyl)pyrazole | 0.8 g | CC1=NN(C(=C1)C)C[C@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C | C21H26N4
